US05945426
4-(4-Hydroxyphenyl)-2-methyl-6-[4-(4-phenylpiperidino)butoxy]pyrimidine hydrochloride
Using 4-(4-phenylpiperidino)-1-butanol and 6-(4-benzyloxyphenyl)-4-chloro-2-methylpyrimidine, the procedure of Reference Example 25, which appears hereinafter, was otherwise followed to provide the title compound.

reactant | 4-(4-phenylpiperidino)-1-butanol | C1(=CC=CC=C1)C1CCN(CC1)CCCCO | C15H23NO
reactant | 6-(4-benzyloxyphenyl)-4-chloro-2-methylpyrimidine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NC(=N1)C)Cl | C18H15ClN2O
product | 4-(4-Hydroxyphenyl)-2-methyl-6-[4-(4-phenylpiperidino)butoxy]pyrimidine hydrochloride | Cl.OC1=CC=C(C=C1)C1=NC(=NC(=C1)OCCCCN1CCC(CC1)C1=CC=CC=C1)C | InChI=1S/C26H31N3O2.ClH/c1-20-27-25(23-9-11-24(30)12-10-23)19-26(28-20)31-18-6-5-15-29-16-13-22(14-17-29)21-7-3-2-4-8-21;/h2-4,7-12,19,22,30H,5-6,13-18H2,1H3;1H
